US04059595
A 14.2 g quantity of 2-ethyl-6-hydroxy-3-oxo-3,6-dihydro-2H-pyran and 74 g of n-butyl alcohol are reacted in the presence of 10 g of magnesium sulfate with refluxing for 24 hours. After the reaction, the mixture is filtered to remove the magnesium sulfate, and the filtrate is concentrated at a reduced pressure to remove the excess n-butyl alcohol. The residue is further distilled at a reduced pressure of 5 mm Hg to give 16.2 g of 2-ethyl-6-n-butoxy-3-oxo-3,6-dihydro-2H-pyran as a yellow liquid fraction at 83° to 88° C in a yield of 82.2%.

reactant | 2-ethyl-6-hydroxy-3-oxo-3,6-dihydro-2H-pyran | C(C)C1OC(C=CC1=O)O | C7H10O3
reactant | magnesium sulfate | 10 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | n-butyl alcohol | 74 g | C(CCC)O | C4H10O
product | 2-ethyl-6-n-butoxy-3-oxo-3,6-dihydro-2H-pyran | 16.2 g, yield of 82.2% | C(C)C1OC(C=CC1=O)OCCCC | C11H18O3
